US06211216B1
Step 1: 2-Chloro-6-methylthiotoluene
200 g (1.24 mol) of 2,6-dichlorotoluene were dissolved in 600 ml of hexamethylphosphoramide and treated with 130.41 g (1.86 mol) of sodium thiomethoxide. The mixture was then heated at 100° C. for 3 h. It was allowed to cool, 88.2 g (0.5 mol) of iodomethane were added and it was stirred at room temperature for 0.5 h. The mixture was then added to 3.5 l of water and extracted with ethyl acetate. The combined organic phases were washed with water, dried over MgSO4 and completely concentrated on a rotary evaporator.

reactant | 2,6-dichlorotoluene | 1.24 mol, 200 g | ClC1=C(C(=CC=C1)Cl)C | C7H6Cl2
reactant | sodium thiomethoxide | 1.86 mol, 130.41 g | C[S-].[Na+]
reactant | iodomethane | 0.5 mol, 88.2 g | IC | CH3I
reactant | water | 3.5 l | O | H2O
solvent | hexamethylphosphoramide | 600 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-Chloro-6-methylthiotoluene | ClC1=C(C(=CC=C1)SC)C | C8H9ClS
